US07572927B2
A microsystem composed of three T-shaped micromixers (M1, M2 and M3) and two microtube reactors (R1 and R2) was used. The whole microsystem was dipped in a cooling bath (−78° C.). A solution of o-dibromobenzene (0.27 M) in THF (flow rate: 6 mL/min, 1.62 mmol/min) and a solution of n-BuLi (1.5 M) in n-hexane (flow rate: 1.2 mL/min, 1.8 mmol/min) were introduced to the first T-shaped mixer M1 (inner diameter: 250 μm) by using syringe pumps. The resulting solution was passed through the tube reactor R1 and was mixed with chlorodimethylsilane (HMe2SiCl) (0.65 M) in THF (flow rate: 3 mL/min, 1.95 mmol/min) in the second T-shaped mixer M2 (inner diameter: 500 μm). The solution was introduced to the third T-shaped mixer M3 (inner diameter: 500 μm), where the solution was quenched with methanol (neat, flow rate=3.0 mmol/min). The residence time of the tube reactor R1 (inner diameter: 500 μm, length=50 cm) was 0.82 second. The residence time of the tube reactor R2 (inner diameter: 1,000 μm, length=50 cm) was 2.31 second. After finishing the reaction, an aliquot of the product solution was taken (15 sec) and was analyzed by GC (column, CBP1; 0.25 mm×25 m; initial oven temperature, 50° C.; rate of temperature increase, 10° C./min). As a result, 2-bromophenyldimethylsilane (GC retention time: 14.9 min) was obtained in 68% yield. 1H NMR (400 MHz, CDCl3) δ: 0.40-0.43 (m, 6H), 4.47-4.53 (m, 1H), 7.14-7.27 (m, 2H), 7.42-7.50 (m, 2H); 13C NMR (100 MHz, CDCl3) δ: −3.5, 126.4, 130.6, 130.9, 132.2, 136.4, 139.1. HRMS (EI) m/z: calcd. for C8H11BrSi 213.9813, found 213.9816.

reactant | o-dibromobenzene | 0.27 M | BrC1=C(C=CC=C1)Br | C6H4Br2
reactant | n-BuLi | 1.5 M | [Li]CCCC
reactant | chlorodimethylsilane | 0.65 M | Cl[SiH](C)C | C2H7ClSi
solvent | THF | C1CCOC1 | C4H8O
solvent | n-hexane | CCCCCC | C6H14
product | 2-bromophenyldimethylsilane | 68% yield | BrC1=C(C=CC=C1)[SiH](C)C | C8H11BrSi
